US05861417
5.2 Synthesis of (S)-1-(t-butoxycarbonyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine
Combine (S)-1-(t-butoxycarbonyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (17 g, 47.0 mmol), N,N-diisopropylethylamine (20 mL), and dichloromethane (300 mL). Cool the reaction mixture in an ice bath. Add dropwise methanesulfonyl chloride (4.8 mL). After 30 minutes add additional methanesulfonyl chloride (0.9 mL). After 2 hours, extract the reaction mixture with saturated aqueous sodium bicarbonate solution and then three times with water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 20% ethyl acetate/hexane, 35% ethyl acetate/hexane, 50% ethyl acetate/hexane and then ethyl acetate to the title compound: Rf =0.24 (silica gel, 35% ethyl acetate/hexane).

reactant | (S)-1-(t-butoxycarbonyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine | 47.0 mmol, 17 g | C(C)(C)(C)OC(=O)N1C[C@@](CC1)(CCO)C1=CC(=C(C=C1)Cl)Cl | C17H23Cl2NO3
reactant | N,N-diisopropylethylamine | 20 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | methanesulfonyl chloride | 4.8 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.9 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (S)-1-(t-butoxycarbonyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | C(C)(C)(C)OC(=O)N1C[C@@](CC1)(CCOS(=O)(=O)C)C1=CC(=C(C=C1)Cl)Cl | C18H25Cl2NO5S
